US08293768B2
Synthesis of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with piperidine to react with 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid, the title compound was obtained as a white powder in 54% yield: 1H NMR (300 MHz, CDCl3) δ 7.45-7.22 (m, 4H), 4.50 (s, 2H), 4.15-4.01 (m, 2H), 3.69-3.32 (m, 6H), 2.60 (s, 3H), 2.40 (s, 3H), 1.71-1.20 (m, 6H); MS (ES+) m/z 427.1 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-((3-(5-acetyl-4-methylthiazol-2-yl)-2-oxoimidazolidin-1-yl)methyl)benzoic acid | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C(=O)O)C=C1)=O)C | C17H17N3O4S
product | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(4-(piperidine-1-carbonyl)benzyl)imidazolidin-2-one | 54% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(=O)N1CCCCC1)=O)C | C22H26N4O3S
